US07183306B2
To a solution of 2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1-H-pyrazol-5-yl]phenyl}ethanol (7.4 g) and Et3N (4.5 ml) in CH2Cl2 (75 ml) was added MsCl (2.5 ml) under ice-cooling. After stirring for 1 hour, the reaction mixture was quenched with water, separated. The aqueous layer was extracted with CH2Cl2 and combined organic layer was washed with water and brine, dried over MgSO4, filtered and evaporated under reduced pressure to give 10.5 g (quant) of 2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1-H-pyrazol-5-yl]phenyl}ethyl methanesulfonate as an oil.

reactant | 2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1-H-pyrazol-5-yl]phenyl}ethanol | 7.4 g | FC(C1=NN(C(=C1)C1=CC=C(C=C1)CCO)C=1C=NC(=CC1)OC)F | C18H17F2N3O2
reactant | Et3N | 4.5 ml | CCN(CC)CC | C6H15N
reactant | MsCl | 2.5 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
product | 2-{4-[3-(difluoromethyl)-1-(6-methoxy-3-pyridinyl)-1-H-pyrazol-5-yl]phenyl}ethyl methanesulfonate | 10.5 g | CS(=O)(=O)OCCC1=CC=C(C=C1)C1=CC(=NN1C=1C=NC(=CC1)OC)C(F)F | C19H19F2N3O4S
